US08071592B2
(a) 8-Ethyl-7-fluoro-2-(methyloxy)-1,5-naphthyridine
8-Ethenyl-7-fluoro-2-(methoxy)-1,5-naphthyridine (for a synthesis see WO2004/058144 Example 53(h)) (1.0 g, 4.90 mmol) was stirred in EtOH (50 ml) with 10% palladium on carbon (0.2 g) and the resulting suspension was hydrogenated under 1 atmosphere of hydrogen pressure for 3 h. The mixture was filtered with suction through celite and the solids were washed with MeOH (500 ml). The combined filtrate plus washings were concentrated to give the title compound as a clear oil (1.045 g, 103%).

reactant | 8-Ethenyl-7-fluoro-2-(methoxy)-1,5-naphthyridine | C(=C)C=1C(=CN=C2C=CC(=NC12)OC)F | C11H9FN2O
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 50 ml | CCO | C2H6O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | 8-Ethyl-7-fluoro-2-(methyloxy)-1,5-naphthyridine | 1.045 g, 103% | C(C)C=1C(=CN=C2C=CC(=NC12)OC)F | C11H11FN2O
